US07105503B2
Preparation of 3-Fluoro-4-morpholin-4-ylmethylphenylamine
2-Fluoro-4-nitrotoluene (1.55 g, 10 mmol), N-bromosuccinimide (1.82 g, 10 mmol), and benzoyl peroxide (0.1 g, 0.4 mmol) were dissolved in CCl4 (50 mL). The mixture was heated at reflux, and irradiated with light (100 W bulb) for 4 hours. The reaction mixture was filtered and concentrated. The residue was dissolved in THF (50 mL) and morpholine (1.9 g, 22 mmol) was added to this solution. The mixture was stirred at ambient temperature for 1 hour, and then filtered. The filtrate was evaporated. The title compound was isolated by column chromatography in an amount of 710 mg (30% yield).

reactant | 2-Fluoro-4-nitrotoluene | 10 mmol, 1.55 g | FC1=C(C=CC(=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | N-bromosuccinimide | 10 mmol, 1.82 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.4 mmol, 0.1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | morpholine | 22 mmol, 1.9 g | N1CCOCC1 | C4H9NO
solvent | CCl4 | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-Fluoro-4-morpholin-4-ylmethylphenylamine | 30% yield | FC=1C=C(C=CC1CN1CCOCC1)N | C11H15FN2O
